US09359305B2
Compound number 102 (i.e., 6-chloro-5-(4-chlorophenyl)-2-trifluoromethylthiobenzimidazole) was prepared as follows. A 250-mL 3-necked round-bottom flask was charged with a solution of 5-chloro-6-iodo-2,3-dihydro-1H-1,3-benzodiazole-2-thione (2 g, 6.44 mmol, 1.00 equiv) in N,N-dimethylformamide (100 mL) and potassium hydroxide (1.1 g, 3.00 equiv). Trifluoro(iodo)methane was introduced to the above. The resulting solution was stirred for 3 h at 120° C. in an oil bath. The resulting solution was diluted with 250 mL of ethyl acetate. The resulting mixture was washed with 3×200 mL of water and 2×200 mL of brine. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10). This resulted in 400 mg (16%) of 5-chloro-6-iodo-2-[(trifluoromethyl)sulfanyl]-1H-1,3-benzodiazole as a yellow solid.

reactant | 5-chloro-6-iodo-2,3-dihydro-1H-1,3-benzodiazole-2-thione | 6.44 mmol, 2 g, 1.00 equiv | ClC1=CC2=C(NC(N2)=S)C=C1I | C7H4ClIN2S
reactant | potassium hydroxide | 1.1 g, 3.00 equiv | [OH-].[K+]
reactant | Trifluoro(iodo)methane | FC(I)(F)F | CF3I
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-5-(4-chlorophenyl)-2-trifluoromethylthiobenzimidazole | ClC=1C(=CC2=C(N=C(N2)SC(F)(F)F)C1)C1=CC=C(C=C1)Cl | C14H7Cl2F3N2S
